US07238808B2
5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
The title compound was prepared from 7-Difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2)(340 mg, 1.0 mmol) and 5-Bromo-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (example B.2)(281 mg, 1.0 mmol) according to general procedure II. Obtained as a light-brown solid (200 mg, 35%). MS (ISP) 566.2 [(M+H)+]; mp 200–201° C.

reactant | 7-Difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 340 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 5-Bromo-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 1.0 mmol, 281 mg | OCC(C)(C)NS(=O)(=O)C=1C=NC=C(C1)Br | C9H13BrN2O3S
product | 5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NS(=O)(=O)C=1C=NC=C(C1)C#CC=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F | C25H20F5N5O3S
